US03956321
Into a reaction vessel were placed 9.944 grams (0.052 mol) 4-nitrophthalic anhydride and 6.618 grams (0.114 mol) anhydrous potassium fluoride. The reaction vessel was closed and the reactants mixed together for several seconds; thereafter the reaction vessel was fitted with a distilling head, receiver, and nitrogen inlet. The reaction mixture was heated under a nitrogen blanket at approximately an increase of 2°/minute until the temperature reached 225°C. (which took about 45 minutes). The reaction mixture was then heated at a temperature of 235°-240°C. for an additional 60 minutes at which time the nitrogen line was replaced by a vacuum line and the pressure lowered until distillation of the reaction mixture began to take place. This resulted in a yield of 5.101 grams (59.6% yield) of 4-fluorophthalic anhydride, boiling point 205°-206°C./160 mm. This material, which on cooling solidified to give a solid melting at 74°-76°C., was identified as essentially pure 4-fluorophthalic anhydride.

reactant | 4-nitrophthalic anhydride | 0.052 mol, 9.944 grams | [N+](=O)([O-])C=1C=C2C(C(=O)OC2=O)=CC1 | C8H3NO5
reactant | potassium fluoride | 0.114 mol, 6.618 grams | [F-].[K+]
product | 4-fluorophthalic anhydride | yield of 5.101 grams, 59.6% yield | FC=1C=C2C(C(=O)OC2=O)=CC1 | C8H3FO3
